US05123951
To a stirred solution of 2.73 grams (0.01 mole) of ethyl 3-[(4-chlorophenyl)amino]-2-(dimethyloxosulfuranylidene)-3-oxopropanoate prepared in Example XLVII (Compound 205) in 35 milliliters of chloroform was added a solution of 1.37 grams (0.01 mole) of bromine in 35 milliliters of chloroform, dropwise, at ambient temperature. The mixture became dark orange and showed a slight exothermic effect during the feed period. Stirring was continued for 20 minutes, at which time the solution was a clear light yellow in color. It was then evaporated free of solvent and stored at 5° C. for a period of about 64 hours causing the residue to crystallize. Two recrystallizations from hexane-ethyl acetate (10:1) gave 0.58 gram (0.002 mole) of ethyl 3-[(4-chlorophenyl)amino]-2-bromo-3-oxopropanoate having a melting point of 117° C.-119° C.

reactant | ethyl 3-[(4-chlorophenyl)amino]-2-(dimethyloxosulfuranylidene)-3-oxopropanoate | 0.01 mole, 2.73 grams | ClC1=CC=C(C=C1)NC(C(C(=O)OCC)=S(=O)(C)C)=O | C13H16ClNO4S
reactant | bromine | 0.01 mole, 1.37 grams | BrBr | Br2
solvent | chloroform | 35 milliliters | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 35 milliliters | C(Cl)(Cl)Cl | CHCl3
product | ethyl 3-[(4-chlorophenyl)amino]-2-bromo-3-oxopropanoate | 0.002 mole, 0.58 gram | ClC1=CC=C(C=C1)NC(C(C(=O)OCC)Br)=O | C11H11BrClNO3
